US07737149B2
1,4-Dibenzyl-2-(methoxymethyl)piperazine (1.578 g, 5.08 mmol) and palladium (10% on carbon, 0.163 g, 1.53 mmol) in ethanol (50.8 ml) were stirred under an atmosphere of hydrogen at room temperature for 3 days. The reaction mixture was filtered through celite, washing with ethanol. The resulting mixture was evaporated to dryness to afford crude product. The crude product was purified by ion exchange chromatography, using a SCX column. The desired product was eluted from the column using 7M NH3/MeOH and fractions were evaporated to dryness to afford 2-(methoxymethyl)piperazine (0.559 g, 84%) as a yellow oil. This was used directly without further purification.

reactant | 1,4-Dibenzyl-2-(methoxymethyl)piperazine | 5.08 mmol, 1.578 g | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)COC | C20H26N2O
solvent | ethanol | 50.8 ml | C(C)O | C2H6O
catalyst | palladium | 1.53 mmol, 0.163 g | [Pd] | Pd
product | 2-(methoxymethyl)piperazine | 0.559 g, 84% | COCC1NCCNC1 | C6H14N2O
